Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, Positive blood cx
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
   ___ male with hx notable for HTN and glaucoma, p/w fever, 
fatigue, and positive blood cx, referred by urgent care. He was 
in his USOH until ___ while he was cleaning the swimming 
pool, when he began to experience ___ frontal headaches. He 
denies neck stiffness or focal neurological symptoms.
   He returned home, and the headache resolved transiently with 
Tylenol. ___, He began to experience fevers (max 102.4), 
chills, and tremors from the cold sensation. He denies losing 
consciousness, tongue biting, or urinary incontinence. He 
visited the urgent care doctor that day, who attributed it to 
likely URI, with negative flu swab, and obtained blood cx, which 
was positive by ___ with GNR x2 bottles, and was referred to 
the ED. He also endorses new dry cough starting ___. Otherwise, 
he denies any travel hx, sick contacts, diarrhea, constipation, 
dysuria, physical trauma, myalgia, or recent dental procedures. 
He does not recall any vaccinations that he has received, 
including HepB/C.
   Of note, he had a L clavicle fracture in ___, and since 
then, has left chest tingling whenever he coughs.

 
Past Medical History:
HTN
HLD
Glaucoma
Gout
Cervical spinal stenosis
Note: OMR incorrectly states that patient has a heart murmur and 
history of Echo, which he does NOT.
 
Social History:
___
Family History:
Father with liver CA (___). Sister with breast CA (___). 
Mother with unclear gallbladder issue.

 
Physical Exam:
ADMISSION EXAM
Vitals: T 99.4, BP 114/64, HR 82, RR 16, O2 94% RA
General: AOx3, ___, NAD
HEENT: Sclerae anicteric, MMM, oropharynx clear, poor dentition, 
EOMI, PERRL.  
Neck: Supple. JVP not elevated. no LAD. No meningismus.  
CV: RRR. Normal S1+S2, no murmurs, rubs, gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, ___, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No flank pain. No scrotal tenderness.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.
Skin: No acute skin trauma.
Neuro: ___ intact. ___ motor strength in Upper+Lower 
extremities.

==============
DISCHARGE EXAM
Vitals:98.4, 125/71, 62 18 97 
General: AOx3, ___, NAD
HEENT: MMM, oropharynx clear, poor dentition.
Neck: Supple. JVP not elevated. No meningismus.  
CV: RRR. Normal S1+S2, no murmurs, rubs, gallops.  
Lungs: CTAB, no wheezes, rales, rhonchi  
Abdomen: Soft, NT/ND, bowel sounds present
GU: No flank pain. 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.
Skin: No acute skin trauma.
Neuro: ___ intact. ___ motor strength in Upper+Lower 
extremities.

 
Pertinent Results:
ADMISSION LABS
___ 10:53AM BLOOD ___ 
___ Plt ___
___ 10:53AM BLOOD ___ 
___ Im ___ 
___
___ 10:53AM BLOOD ___ 
___
___ 11:43AM BLOOD ___
___ 11:43AM BLOOD ___
___ 12:06PM BLOOD ___

PERTINENT LABS
=================

___ 07:05AM BLOOD ___ 
___ Plt ___
___ 07:35AM BLOOD ___ 
___ Plt ___
___ 07:05AM BLOOD ___ 
___
___ 07:35AM BLOOD ___ 
___
___ 11:43AM BLOOD ___
___ 07:05AM BLOOD ___
___ 11:43AM BLOOD ___
___ 07:05AM BLOOD ___
___ 07:35AM BLOOD ___
___ 07:35AM BLOOD ___ 
___
___ 07:35AM BLOOD HIV ___
___ 12:40PM URINE ___ Sp ___
___ 12:40PM URINE ___ 
___
___ 12:40PM URINE RBC-<1 ___ 
___

DISCHARGE LABS:
==========================

___ 07:20AM BLOOD ___ 
___ Plt ___
___ 07:20AM BLOOD ___ 
___

MICROBIOLOGY
==========================
Blood culture ___ x2 negative
Blood culture ___ x 2 negative

 
 
___ 12:40 pm URINE      ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING:
===============================
#CXR ___:
No acute cardiopulmonary abnormality.

#CT abdomen pelvis with contrast:
1. No evidence of ___ infection. 
2. A probable 1.4 x 1.2 cm complicated right renal cyst versus 
cystic renal 
neoplasm warrants either dedicated evaluation with ultrasound. 
3. A 6 mm left lower lobe pulmonary nodule warrants ___ CT 
in ___ 
months per ___ ___ recommendations. 
4. Advanced degenerative changes lumbar spine, multilevel 
significant central 
canal, foraminal narrowing.  There is probable moderate to 
severe central 
canal narrowing at ___. 

#RENAL ULTRASOUND ___:
The right kidney measures 12.2 cm. The left kidney measures 12.9 
cm.  In the interpolar right kidney, corresponding to the 
abnormality identified on CT 1 day prior, there is a 1.3 x 1.0 x 
0.7 cm echogenic lesion.  There is no associated vascularity.  
Also in the right kidney are abutting cysts or a multi septate 
cyst measuring up to 4.4 x 3.2 x 2.9 cm.  There is no associated 
vascularity.  In the lower pole the left kidney, there is a 1.8 
x 1.4 x 1.2 cm cyst with a single thin septation.  There is no 
associated vascularity.  
Normal cortical echogenicity and corticomedullary 
differentiation are seen 
bilaterally. 
  
The bladder is decompressed. 
  
IMPRESSION: 
  
1. Right renal angiomyolipoma corresponding to the abnormality 
identified on CT 1 day prior. 
2. Multiple bilateral renal cysts as described on CT 1 day 
prior. 

 
Brief Hospital Course:
Mr ___ is a ___ y/o male with hypertension and glaucoma, who 
presented fever, fatigue, and positive blood culture (E.coli) of 
unknown source. 

=============
ACTIVE ISSUES
# E. coli bacteremia
Approximately 3 days prior to admission, he developed headaches, 
fevers, chills, rigors, without any other localizing symptoms.

He was referred to ___ after blood cultures from ___ urgent 
care were positive for GNRs. In the ED he was afebrile, 
tachycardic, with normal BP. Exam negative for meningismus or 
altered mental status. Abdominal, skin, pulmonary, cardiac exams 
were all normal. He had no prostate tenderness or enlargement; 
no urethral discharge. Labs (CBC, chemistry, LFTs) were 
unremarkable. Urinalysis and urine culture were negative for 
infection. CXR was unremarkable. He was started initially on 
Zosyn, transitioned to cefepime on admission. On ___, 
blood cultures speciated to E.coli on ___, sensitive to 
Augmentin, Cephalosporins, Cipro/Levofloxacin, Tetracyclines, 
resistant to ampicillin. To identify a potential source, he had 
CT abdomen with contrast, which did not find any source of 
bacteremia. 
Cefepime was changed to ciprofloxacin. Source of E. coli 
bacteremia was not ultimately identified. Potential sources 
include his poor dentition, which has been associated with GNR 
infections. Unlikely to be due to UTI, prostatitis, orchitis, 
pneumonia, meningitis, endocarditis, or skin infections. He 
remained clinically stable and noted subjective improvement 
while on antibiotics. Repeat blood cultures were negative x4. 

# Thrombocytopenia: Platelet count 136 on admission. Patient 
denies history of thrombocytopenia.  Atrius records show last 
CBC in ___ with Plt 229. As per pt, he has regular blood 
checks at ___ with Dr. ___. No active 
bleeding. Does not have any signs of cirrhosis. Likely reactive 
given mild thrombocytopenia in the setting of active infection. 
Plt count improving by day of discharge.

#Incidental imaging findings:
CT abdomen/pelvis incidentally noted:
-probable 1.4 x 1.2 cm complicated right renal cyst versus 
cystic renal 
neoplasm  (also showed other cysts
-6 mm left lower lobe pulmonary nodule warrants ___ CT in 
___  months per ___ ___ recommendations 

Renal ultrasound was done to further investigate, and showed in 
the right kidney a 4.4 x 3.2 x 2.9cm multiseptate cyst, and 1.3 
x 1.0 x 0.7 echogenic lesion felt to be an angiomyolipoma.

==============
CHRONIC ISSUES
# HTN: continued home atenolol, losartan  
# Glaucoma: continued home eye drops  

TRANSITIONAL ISSUES 
===================
PCP ___: Ciprofloxacin 500mg BID to be continued for 11 
additional days to complete 14 day treatment course, to end on 
___
- Recommend Hepatitis B immunization on non urgent outpatient 
basis
- Imaging follow up recommend repeat CT Chest in ___ months for 
evaluation of pulmonary nodules. Incidental note of right renal 
angiomyolipoma on CT and US. 
- Recommend repeat labs: CBC (to trend thrombocytopenia) and 
LFTs (to trend transaminitis) within 1 week of discharge. 

# CODE: full (presumed) 
# CONTACT: wife ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Losartan Potassium 25 mg PO DAILY 
3. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Indomethacin 25 mg PO TID:PRN Pain - Moderate 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 10 Days 
Continue until ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*23 Tablet Refills:*0 
2.  Atenolol 50 mg PO DAILY  
3.  Indomethacin 25 mg PO TID:PRN Pain - Moderate  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  Losartan Potassium 25 mg PO DAILY  
6.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
E. coli bacteremia 

Secondary Diagnosis 
Thrombocytopenia 
Hypertension 
GERD
Transaminitis 
Renal 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you during your 
hospitalization. Briefly, you were hospitalized with bacteria 
growing in your blood. You were started on IV antibiotics and 
improved. The bacteria in your blood was called E. coli and you 
should continue taking your antibiotic pill for the next ___ 
days. 

We wish you the best, 

Your ___ Treatment Team 
 
Followup Instructions:
___